US08557876B2
A 100 mL reaction flask is charged with 3,7-dimethyl-oct-6-enal (Citronellal®) (Commercially available at IFF) (10 g, 0.06 mol), formamidine acetate (31 g, 0.3 mol), and butanol (50 mL). The reaction mixture is heated to 130° C. and stirred for 24 hours. The crude mass is washed once with aqueous sulfuric acid (10%, 100 mL) followed by twice with brine (30 mL). Butanol is recovered by roto-evaporation. The crude product is further purified with liquid chromatography (Biotage® system) and then crystallized. Product 5-(1,5-dimethyl-hex-4-enyl)-pyrimidine (˜5 g) is obtained.

reactant | 3,7-dimethyl-oct-6-enal | CC(CC=O)CCC=C(C)C | C10H18O
reactant | formamidine acetate | 0.3 mol, 31 g | C(C)(=O)O.C(=N)N
solvent | butanol | 50 mL | C(CCC)O | C4H10O
product | 5-(1,5-dimethyl-hex-4-enyl)-pyrimidine | ˜5 g | CC(CCC=C(C)C)C=1C=NC=NC1 | C12H18N2
